US06787651B2
Ethyl 5-(benzyloxy)-3-bromo-1-(4-fluorobenzyl)-1H-indole-2-carboxylate
A solution of ethyl 5-(benzyloxy)-3-bromo-1H-indole-2-carboxylate, Ref. WO96/18393 (6.77 g, 20.3 mmol, Ref. 96/18393) in N,N-dimethylformamide (10+5 mL rinse) was added slowly (10 min) to a cooled (0° C.) and stirred suspension of sodium hydride (0.72 g, 30 mmol) in N,N-dimethylformamide (30 mL). The reaction was stirred for 1 h and then 4-fluorobenzylbromide (3.7 mL, 5.7 g, 30 mmol) was added. The cold bath was removed and the mixture was stirred for 18 h. The reaction was quenched by pouring over ice water (400 mL) and then the product was extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. Flash chromatography of the residue over silica gel using 50% dichloromethane/hexane gave 6.80 g (75%) of the desired product containing trace impurities. The product had: 1H NMR (300 MHz, CDCl3) δ 6.84-7.53 (m, 12 H), 5.72 (s, 2 H), 5.13 (s, 2 H), 4.38 (q, 2 H), 1.40 (t, 3 H).

reactant | ethyl 5-(benzyloxy)-3-bromo-1H-indole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C(=O)OCC)Br | C18H16BrNO3
reactant | sodium hydride | 30 mmol, 0.72 g | [H-].[Na+]
reactant | 4-fluorobenzylbromide | 30 mmol, 3.7 mL, 5.7 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-(benzyloxy)-3-bromo-1-(4-fluorobenzyl)-1H-indole-2-carboxylate | 6.80 g, 75% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)F)C(=O)OCC)Br | C25H21BrFNO3
